US04551419
Synthesis Example I-4: Synthesis of 4,7-Dithia-1,10-decanediol (HOCH2CH2CH2SCH2CH2SCH2CH2CH2OH)
To 300 ml of absolute methanol, was added 12.2 g of metallic sodium. To the resulting solution which was being stirred in an ice bath, was added dropwise 25 g of dithioglycol. After the dropwise addition, the stirring was continued for additional 30 minutes in the ice bath. Then, 52 g of 3-chloro-1-propanol was further added dropwise. At the conclusion of the dropwise addition, the temperature of the reaction system was raised to a room temperature, and the reaction system was allowed to stand for 10 hours at the room temperature. The thus produced sodium chloride was removed by filtration under reduced pressure, and the resulting filtrate was concentrated. Crystals thus obtained were recrystallized from acetone. Melting Point 52° C., Yield 20 g.

reactant | sodium | 12.2 g | [Na] | Na
reactant | dithioglycol | 25 g | C(CS)S | C2H6S2
reactant | 3-chloro-1-propanol | 52 g | ClCCCO | C3H7ClO
solvent | methanol | 300 ml | CO | CH4O
product | 4,7-Dithia-1,10-decanediol | C(CCSCCSCCCO)O | C8H18O2S2
